US05599980
2,3,4,5-Tetrafluoro-benzotrichloride
85 g (0.64 mol) of aluminium chloride (anhydrous) are initially introduced into 500 ml of methylene chloride, and 109 g (0.5 mol) of 2,3,4,5-tetrafluoro-benzotrifluoride are added dropwise at room temperature, while stirring. The mixture is then subsequently stirred at 40° C. for 1 hour, allowed to cool and poured onto 600 g of ice, the organic phase is separated off, the aqueous phase is extracted with ether and the combined phases are washed with water and dried over anhydrous magnesium sulphate. After concentration, the residue is distilled. 108.3 g (81% of theory) of product are obtained; boiling point: 89°-90° C./22 mbar.

reactant | aluminium chloride | 0.64 mol, 85 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,3,4,5-tetrafluoro-benzotrifluoride | 0.5 mol, 109 g | FC1=C(C=C(C(=C1F)F)F)C(F)(F)F | C7HF7
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 2,3,4,5-Tetrafluoro-benzotrichloride | FC1=C(C=C(C(=C1F)F)F)C(Cl)(Cl)Cl | C7HCl3F4
